US08877774B2
Step 1. tert-Butyl((3-(4-bromophenethoxy)phenyl)(phenyl)methyl)carbamate
The title compound was prepared as described in Example 22 Step 2 with 4-bromophenethyl alcohol and tert-butyl(3-hydroxyphenyl)(phenyl)methylcarbamate replacing (4-((1,3-dioxolan-2-yl)methyl)phenyl)methanol and 3-hydroxybenzophenone, respectively.

reactant | 4-bromophenethyl alcohol | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | tert-butyl(3-hydroxyphenyl)(phenyl)methylcarbamate | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1=CC(=CC=C1)O)=O | C18H21NO3
reactant | 3-hydroxybenzophenone | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
product | tert-Butyl((3-(4-bromophenethoxy)phenyl)(phenyl)methyl)carbamate | C(C)(C)(C)OC(NC(C1=CC=CC=C1)C1=CC(=CC=C1)OCCC1=CC=C(C=C1)Br)=O | C26H28BrNO3
